**********
* Copyright Intusoft 1992-1997
* All Rights Reserved
**********
**********
* SRC=BUF;BUF;Digital;Generic;Buffer
.SUBCKT BUF 1 2
*           in out
B1 3 0 V= V(1)
RD 3 2 1
CD 2 0 .87NF
.ENDS
**********
* SRC=INV;INV;Digital;Generic;Inverter
.SUBCKT INV 1  2
*           in out
B1 3 0 V= ~V(1)
RD 3 2 1
CD 2 0 .87NF
.ENDS
**********
* SRC=AND2;AND2;Digital;Generic;2 Input AND
.SUBCKT AND2 1 2 3
*            A B Out
B1 4 0 V= V(1)&V(2)
RD 4 3 1
CD 3 0 .87NF
.ENDS
**********
* SRC=AND3;AND3;Digital;Generic;3 Input AND
.SUBCKT AND3 1 2 3 4
*            A B C Out
B1 5 0 V= V(1)&V(2)&V(3)
RD 5 4 1
CD 4 0 .87NF
.ENDS
**********
* SRC=AND4;AND4;Digital;Generic;4 Input AND
.SUBCKT AND4 1 2 3 4 5
*            A B C D Out
B1 5 0 V= V(1)&V(2)&V(3)&V(4)
RD 6 5 1
CD 5 0 .87NF
.ENDS
**********
* SRC=OR2;OR2;Digital;Generic;2 Input OR
.SUBCKT OR2 1 2 3
*           A B Out
B1 4 0 V= V(1)|V(2)
RD 4 3 1
CD 3 0 .87NF
.ENDS
**********
* SRC=OR3;OR3;Digital;Generic;3 Input OR
.SUBCKT OR3 1 2 3 4
*           A B C Out
B1 5 0 V= V(1)|V(2)|V(3)
RD 5 4 1
CD 4 0 .87NF
.ENDS
**********
* SRC=OR4;OR4;Digital;Generic;4 Input OR
.SUBCKT OR4 1 2 3 4 5
*           A B C D Out
B1 6 0 V= V(1)|V(2)|V(3)|V(4)
RD 6 5 1
CD 5 0 .87NF
.ENDS
**********
* SRC=NAND2;NAND2;Digital;Generic;2 Input NAND
.SUBCKT NAND2 1 2 3
*             A B Out
B1 4 0 V= ~(V(1)&V(2))
RD 4 3 1
CD 3 0 .87NF
.ENDS
**********
* SRC=NAND3;NAND3;Digital;Generic;3 Input NAND
.SUBCKT NAND3 1 2 3 4
*             A B C Out
B1 5 0 V= ~(V(1)&V(2)&V(3))
RD 5 4 1
CD 4 0 .87NF
.ENDS
**********
* SRC=NAND4;NAND4;Digital;Generic;4 Input NAND
.SUBCKT NAND4 1 2 3 4 5
*             A B C D Out
B1 6 0 V= ~(V(1)&V(2)&V(3)&V(4))
RD 6 5 1
CD 5 0 .87NF
.ENDS
**********
* SRC=NOR2;NOR2;Digital;Generic;2 Input NOR
.SUBCKT NOR2 1 2 3
*            A B Out
B1 4 0 V= ~(V(1)|V(2))
RD 4 3 1
CD 3 0 .87NF
.ENDS
**********
* SRC=NOR3;NOR3;Digital;Generic;3 Input NOR
.SUBCKT NOR3 1 2 3 4
*            A B C Out
B1 5 0 V= ~(V(1)|V(2)|V(3))
RD 5 4 1
CD 4 0 .87NF
.ENDS
**********
* SRC=NOR4;NOR4;Digital;Generic;4 Input NOR
.SUBCKT NOR4 1 2 3 4 5
*            A B C D Out
B1 6 0 V= ~(V(1)|V(2)|V(3)|V(4))
RD 6 5 1
CD 5 0 .87NF
.ENDS
**********
* SRC=XOR;XOR;Digital;Generic;Exclusive OR
.SUBCKT XOR  1 3 8
*            A B Out
X1 1 3 2 NAND2
X2 1 2 4 NAND2
X3 2 3 10 NAND2
X4 4 10 8 NAND2
.ENDS
*INCLUDE DIGITAL.LIB
**********
* SRC=SRLATCH;SRLATCH;Digital;Generic;SR latch
.SUBCKT SRLATCH  3 4 1 2
*                s r q qn
X1 3 1 2 NOR2
X2 4 2 1 NOR2
.ENDS
*INCLUDE DIGITAL.LIB
**********
*SRC=SRCLATCH;SRCLATCH;Digital;Generic;SR latch/clk-Boolean
*SYM=SRCLATCH
.SUBCKT SRCLATCH  10 6   9 5 2
*                 s  clk r q qn
X1 9 6 3 AND2
X2 6 10 4 AND2
X3 3 2 5 NOR2
X4 5 4 2 NOR2
.ENDS
*INCLUDE DIGITAL.LIB
**********
*SRC=SRCLATPC;SRCLATPC;Digital;Generic;SR latch/pre clr clk-Boolean
*SYM=SRCLATPC
.SUBCKT SRCLATPC  8 10  9 1  11 13 6
*                 s clk r pr cl q  qn
X1 9 10 2 AND2 
X2 10 8 3 AND2 
X3 2 6 5 NOR2 
X4 13 3 12 NOR2 
X5 1 5 13 OR2 
X6 12 11 6 OR2 
.ENDS
*INCLUDE DIGITAL.LIB
**********
*SRC=FLIP-FLOP;DFLOPB;Digital;Generic;Boolean DFF pos-edge trig.
*SYM=DFLOP
* PIN Outs are the same as the 7474
.SUBCKT DFLOPB 1 2 3 4 5 6
*CLRN D CLK PREN Q QN
X1 4 12 11 13 NAND3 {IC=0}
X2 13 1 3 11 NAND3 {IC=1}
X3 11 3 12 10 NAND3 {IC=0}
X4 10 1 2 12 NAND3 {IC=1}
X5 4 11 6 5 NAND3 {IC=0}
X6 5 1 10 6 NAND3 {IC=1}
.ENDS
*INCLUDE DIGITAL.LIB
**********
*SRC=DELAY;DELAY;Digital;Generic;Time Delay
*SYM=DELAY
.SUBCKT DELAY 1 3 {TD=???}
* PASS TD=0-90% RISE/FALL TIME IN SEC
RIN 1 2 1E4
C1 2 0 {TD/(2.3*1E4)}
E1 3 0 2 0 1
.ENDS
**********
* SRC=DCLATCH;DCLATCH;Digital;Generic;D latch/clk
.SUBCKT DCLATCH  5 10  3  4
*                d clk qn q
X5 5 15 INV 
X6 5 10 6 NAND2 
X7 10 15 7 NAND2 
X8 6 3 4 NAND2 
X9 4 7 3 NAND2 
.ENDS
*INCLUDE DIGITAL.LIB
**********
* SRC=DCLATPC;DCLATPC;Digital;Generic;D latch/pre clr clk
.SUBCKT DCLATPC   2   5 10  1   4 3
*                clr d clk pst q qn
X1 9 10 12 AND2
X2 10 5 14 AND2
X3 12 3 15 NOR2
X4 4 14 13 NOR2
X5 5 9 INV 
X6 1 15 4 OR2 
X7 2 13 3 OR2 
.ENDS
*INCLUDE DIGITAL.LIB
**********
* SRC=DFFPC;DFFPC;Digital;Generic;D Flip-Flop (2-MSSRs)
.SUBCKT DFFPC   6   2 9   5   12 18
*               clr d clk pst q  qn 
X1 5 14 15 7 NAND3
X2 13 6 9 8 NAND3
X3 15 9 14 4 NAND3
X4 16 6 2 3 NAND3
X5 5 15 10 1 NAND3
X6 1 16 6 10 NAND3
R1 10 18 1
CQN 18 0 .87N 
R2 1 12 1
CQ 12 0 .87N 
R3 7 13 1
C3 13 0 .87N 
R4 8 15 1
C4 15 0 .87N 
R5 4 16 1
C5 16 0 .87N 
R6 3 14 1
C6 14 0 .87N 
.ENDS
*INCLUDE DIGITAL.LIB
**********
* SRC=MSSR;MSSR;Digital;Generic;Master-Slave SR
.SUBCKT MSSR  3 5 4 8  10 6 9
*             s c r pr cl q qn
X8 3 5 4 8 10 1 2 SRCLATPC
X9 1 16 2 8 10 6 9 SRCLATPC
X10 5 16 INV
.ENDS
*INCLUDE DIGITAL.LIB
**********
* SRC=JKFFPC;JKFFPC;Digital;Generic;JK Flip-Flop
.SUBCKT JKFFPC  8 7   12 6  4  3 5
*               j clk k  cl qn q pst
X1 2 7 1 5 6 3 4 MSSR
X2 4 8 2 AND2
X3 12 3 1 AND2
.ENDS
.SUBCKT AND2 1 2 3
B1 3 0 V= V(1)&V(2)
.ENDS
.SUBCKT OR2 1 2 3
B1 3 0 V= V(1)|V(2)
.ENDS
.SUBCKT INV 1 2
B1 2 0 V= ~V(1)
.ENDS
*INCLUDE DIGITAL.LIB
**********
*SRC=7403B;SN03;TTL;74xx;Behavioral
*SYM=SN03
.SUBCKT SN03  4 5 3 7
S1 2 0 1 0 SWIT1
S2 3 0 2 0 SWIT2
R2 7 2 1K
X1 4 5 1 NAND2
.MODEL SWIT1 SW(RON=833 ROFF=4.5K VT=.4)
*SETS POWER COMSUMPTION FROM VCC = 1/4 OF TOTAL
.MODEL SWIT2 SW(RON=1 ROFF=100MEG VT=3)
.ENDS
*INCLUDE DIGITAL.LIB
**********
*SRC=7413B;SN13;TTL;74xx;Behavioral
*SYM=SN13
.SUBCKT SN13  1 4 5
R1 5 2 2K
R3 2 0 4K
X3 2 2 4 OR2
S1 2 0 1 0 SWIT
.MODEL SWIT SW(ROFF=10MEG RON=1 VT=1.2 VH=.42)
.ENDS
*INCLUDE DIGITAL.LIB
**********
* SRC=A/D;LIMITER;Digital;Generic;1 Bit A/D
.SUBCKT LIMITER 1 2 3
*               + - OUT
* LIMITS OUTPUT TO 0 OR 1 VOLT
RIN1 1 0 1E6
RIN2 2 0 1E6
G1 0 4 1 2 1
D1 4 0 D
D2 0 4 D
.MODEL D D
C1 4 0 1PF
R1 4 0 1E6
E1 3 0 POLY(1) 4 0
+ 5.000000E-1 , 1.974630E0 , 5.437732E-13 , -6.223602E0 , 
+ -2.036383E-12 , 1.202848E1 , 2.807085E-12 , -1.133887E1 , 
+ -1.277173E-12 , 4.059541E0 , 
.ENDS
**********
* SRC=D/A;LSWITCH;Digital;Generic;1 Bit D/A
* SAME AS SWITCH IN DEVICE.LIB, BUT CONTROL AT NODE 3
* USES A 6TH ORDER POLY TO MAKE RIPPLE NEAR 0 VERY SMALL
* USED TO INTERFACE WITH THRESHOLD LOGIC WITH 0V AND 1V LEVELS
.SUBCKT LSWITCH 1 2 3    
*LOGIC INTEFACE 0=OFF, 1E12; 1 = ON, 1K
R1 1 2 1E12     
R3 3 0 1E12
E1 4 0 POLY(1) 3 0 0 0 0 0 0 0 1
R4 4 0 1E6
G1 1 2 POLY(2) 1 2 4 0 0 0 0 0 1M
.ENDS   
**********
*SRC=IOR;IOR;Digital;Generic;Inclusive OR
*SYM=IOR
.SUBCKT IOR 1 2 3
*BE CAREFUL, THIS STAGE HAS UNITY GAIN
RIN1 1 0 1E6
RIN2 2 0 1E6
V1 1 4 .5
V2 2 5 .5
R4 4 0 1MEG
R5 5 0 1MEG
E1 3 0 POLY(2) 4 0 5 0 .5 0 0 0 2
.ENDS
**********
*SRC=MUX;MUX2;Digital;Generic;Multiplexor-Boolean
*SYM=MUX2
.SUBCKT MUX2 1 2 3 4 
*IN1, IN2, CONTROL, OUTPUT
* SELECT  1 IF 3 TRUE, ELSE 2
X1 1 3 6 AND2
X2 2 8 7 AND2
E1 8 0 0 3 1 1
R3 8 0 1E6
R1 6 0 1E6
R2 7 0 1E6
E2 4 0 POLY(2) 6 0 7 0 0 1 1
.ENDS
*INCLUDE DIGITAL.LIB
**********
*SRC=SR;SR;Digital;Generic;Shift Register-Behavioral
*SYM=SR
.SUBCKT SR 1 2 3 4  {IC=0}
* IN, OUT, CLOCK PHASE 1, CLOCK PHASE 2
* CLOCKS MUST BE NON-OVERLAPING, THEY CAN'T BE 1 AT THE SAME TIME
* MAKES A MORE EFFICEINT SHIFT REGISTER THAN THE DFLOP
RIN1 1 0 1E6
G1 1 5 POLY(2) 1 5 3 0 0 0 0 0 1M
C1 5 0 1PF IC={IC}
R1 5 0 1E12
E1 6 0 5 0 1
G2 6 7 POLY(2) 6 7 4 0 0 0 0 0 1M
C2 7 0 1PF IC={IC}
R2 7 0 1E12
E2 2 0 7 0 1
.ENDS
**********
*SRC=74L04;LTTL7404;TTL;74Lxx;Inverter, BJT Level
*SYM=INV
.SUBCKT LTTL7404 1  5 
*Connections     In Out
*Inverter
Q2 3 2 7 QA
Q3 6 3 4 QA
Q5 10 13 5 QC
D1 4 5 DA
D2 10 9 DA
D3 9 0 DA
RB1 11 12 40K
RC3 11 6 500
RC2 11 3 20K
RE2 7 0 12K
VCC 11 0 5
Q4 5 7 0 QA
RB2 11 13 40K
Q1 2 12 1 QC
.MODEL DA D RS=40 IS=1.0E-14 CJO=1PF
.MODEL QA NPN BF=20 BR=1 RB=70 RC=40 IS=1.0E-14 VA=50
.MODEL QC NPN BF=20 BR=0.02 RB=500 RC=40 IS=1.0E-14 VA=50
.ENDS
**********
*SRC=74STTL;STTL7404;TTL;74Sxx;Inverter, BJT Level
*SYM=STTL7404
.SUBCKT STTL7404 1  14 
*Connections     In Out
*Inverter
Q2 3 2 7 QA
Q3 13 3 6 QA
Q7 10 15 14 QC
D1 10 9 DA
D2 9 0 DA
RB1 11 12 2.8K
RC4 11 13 50
RC2 11 3 900
RE2 7 4 500
VCC 11 0 5
Q5 5 4 0 QA
RB7 11 15 2.4K
Q4 13 6 14 QB
RC5 7 5 250
Q6 14 7 0 QB
Q1 2 12 1 QC
.MODEL DA D RS=40 IS=1.0E-14 CJO=1PF
.MODEL QA NPN BF=20 BR=1 RB=70 RC=40 IS=1.0E-14 VA=50
.MODEL QB NPN BF=20 BR=0.2 RB=20 RC=12 IS=1.6E-14 VA=50
.MODEL QC NPN BF=20 BR=0.02 RB=500 RC=40 IS=1.0E-14 VA=50
.ENDS
**********
*SRC=74TTL;TTL7404;TTL;74xx;Inverter, BJT Level
*SYM=TTL7404
.SUBCKT TTL7404 1  5 
*Connections  In Out
*Inverter
Q2 3 2 7 QA
Q3 6 3 4 QA
Q5 10 13 5 QC
D1 4 5 DA
D2 10 9 DA
D3 9 0 DA
RB1 11 12 4K
RC3 11 6 130
RC2 11 3 1.6K
RE2 7 0 1K
VCC 11 0 5
Q4 5 7 0 QB
RB5 11 13 4K
Q1 2 12 1 QC
.MODEL DA D RS=40 IS=1.0E-14
.MODEL QA NPN BF=20 BR=1 RB=70 RC=40 IS=1.0E-14 VA=50
.MODEL QB NPN BF=20 BR=0.2 RB=20 RC=12 IS=1.6E-14 VA=50
.MODEL QC NPN BF=20 BR=0.02 RB=500 RC=40 IS=1.0E-14 VA=50
.ENDS
**********
*SRC=9200TTL;TTL9200;TTL;92xx;Inverter, BJT Level
*SYM=inv
.SUBCKT TTL9200 1  9
*Connections    In Out
*Inverter
Q2 3 2 7 QA
Q3 6 3 14 QA
Q6 4 10 9 QC
D1 4 5 DA
D2 5 0 DA
RB1 13 12 4K
RC3 13 6 150
RC2 13 3 1.5K
RE2 7 0 1.25K
VCC 13 0 5
Q5 9 7 0 QB
RB6 13 10 4K
Q4 13 14 9 QB
RB4 14 9 4K
Q1 2 12 1 QC
.MODEL DA D RS=40 IS=1.0E-14 CJO=0.9PF
.MODEL QA NPN BF=20 BR=1 RB=70 RC=40 CCS=2PF IS=1.0E-14 VA=50
.MODEL QB NPN BF=20 BR=0.2 RB=20 RC=12 IS=1.6E-14 VA=50
.MODEL QC NPN BF=20 BR=0.02 RB=500 RC=40 IS=1.0E-14 VA=50
.ENDS
**********
*SRC=ECL;ECLGATE;ECL;Generic;ECL Inverter, BJT Level
*SYM=ECLGATE
.SUBCKT ECLGATE 2   4   9
*Connections    In1 In2 Out
Q3 0 1 3 QND
RS1 2 0 50
Q1 8 0 10 QND
R1 3 6 60
R2 6 5 820
Q2 0 11 10 QND
RC 8 0 100
Q4 10 6 7 QND
Q5 0 13 7 QND
VEE 5 0 -6
RE 7 5 280
R5 16 0 100
Q6 0 16 11 QND
R3 5 11 2K
Q7 0 14 13 QND
D2 14 15 D1
R7 15 5 720
R4 13 5 2K
D1 16 17 D1
R6 17 14 60
Q8 0 8 9 QND
RL 5 9 560
RS2 4 1 50
.MODEL D1 D RS=40 TT=0.1NS CJO=0.9PF
.MODEL QND NPN BF=50 RB=70 RC=40 CCS=2PF TF=0.1NS TR=10NS
+ CJE=0.9PF CJC=1.5PF PC=0.85 VA=50
.ENDS
**********
*SRC=MECLIII;MECLIII;ECL;Generic;MECLIII Buffer, BJT Level
*SYM=MECLIII
.SUBCKT MECLIII 1 20
*Connections    In Out
*Inverter
R1 3 15 2K
R3 19 15 1958
RE 8 15 380
RP2 18 15 560
RE2 27 15 380
RP3 5 15 560
R4 6 15 2K
R6 12 15 1958
RP4 25 15 560
RP5 20 15 560
Q1 13 1 8 QND
Q2 13 11 8 QND
Q3 10 3 8 QND
Q4 0 9 3 QND
Q5 0 10 18 QND
D1 9 4 D1
D2 4 19 D1
Q6 0 13 5 QND
Q7 17 5 27 QND
Q8 21 6 27 QND
RC3 0 17 100
RC4 0 21 112
RC1 0 13 100
RC2 0 10 112
R2 0 9 350
Q9 0 23 6 QND
Q10 0 21 25 QND
Q11 0 17 20 QND
D3 23 7 D1
D4 7 12 D1
R5 0 23 350
VEE 15 0 -6
RP1 11 15 50K
.MODEL QND NPN BF=50 RB=70 RC=40 CCS=2PF TF=0.1NS TR=10NS
+ CJE=0.9PF CJC=1.5PF PC=0.85 VA=50
.MODEL D1 D RS=40 TT=0.1NS CJO=0.9PF
.ENDS
**********
*SRC=TTL;STTLGATE;TTL;74Sxx;Inverter, BJT Level
*SYM=STTLGATE
.SUBCKT STTLGATE 6  12
*Connections     In Out
*Schottky-TTL Inverter
D12 2 1 D2
D2 1 3 D2
RC3 3 19 10
DL 22 4 D2
RC2 4 5 30
Q2 5 24 23 QND
DC2 24 5 D2
RC1 18 24 60
DC1 7 18 D2
Q1 18 7 6 QND
RB1 11 7 15K
RE1 23 9 600
DE1 9 0 D2
Q3 19 23 0 QND
DC3 23 19 D2
Q4 25 16 10 QND
RS2 3 10 50
QL2 26 26 12 QND
RL2 14 26 8K
VLOAD 14 0 5
RB2 14 16 15K
DC5 17 12 D2
Q5 12 17 15 QND
Q6 15 15 0 QND
RE2 15 13 600
DE2 13 0 D2
RC4 25 17 60
DC4 16 25 D2
VCC 11 0 5
RL1 11 22 8.75K
QE 21 22 20 QND
RK 11 21 1K
D1 20 2 D2
.MODEL D2 D RS=15 CJO=0.2PF IS=5E-10
.MODEL QND NPN BF=50 RB=70 RC=40 CCS=2PF TF=0.1NS TR=10NS
+ CJE=0.9PF CJC=1.5PF PC=0.85 VA=50
.ENDS
**********
*SRC=CD4049UB;CD4049UB;CMOS;CD4xxx;Inverter, MOS Level
*SYM=CD4049UB
.SUBCKT CD4049UB 1  2   3   4
*Hex Buffer    In Out Vcc Vss
*pinout 16PIN 3 2;5 4;7 6;9 10;11 12;14 15:VCC=1 GND=8
M1 2 1 3 3 CD4049P
M2 2 1 4 4 CD4049N
.MODEL CD4049P PMOS (LEVEL=1 VTO=-2.9 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2 RS=45.2 IS=31.2F PB=.8 MJ=.46
+ CBD=148P CBS=177P CGSO=218N CGDO=182N CGBO=299N)
.MODEL CD4049N NMOS (LEVEL=1 VTO=2.1 KP=5M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=4.2 RS=4.2 IS=31.2F PB=.8 MJ=.46
+ CBD=105P CBS=127P CGSO=156N CGDO=130N CGBO=214N)
.ENDS
**********
*SRC=CD4050B;CD4050B;CMOS;CD4xxx;Buffer, MOS Level
*SYM=CD4050B
.SUBCKT CD4050B 1  2   3   5
*Hex Buffer    In Out Vcc Vss
*pinout 16PIN 3 2;5 4;7 6;9 10;11 12;14 15:VCC=1 GND=8
M1 4 1 3 3 CD4049P
M2 4 1 5 5 CD4049N
M3 2 4 3 3 CD4049P
M4 2 4 5 5 CD4049N
.MODEL CD4049P PMOS (LEVEL=1 VTO=-2.9 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2 RS=45.2 IS=31.2F PB=.8 MJ=.46
+ CBD=148P CBS=177P CGSO=218N CGDO=182N CGBO=299N)
.MODEL CD4049N NMOS (LEVEL=1 VTO=2.1 KP=5M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=4.2 RS=4.2 IS=31.2F PB=.8 MJ=.46
+ CBD=105P CBS=127P CGSO=156N CGDO=130N CGBO=214N)
.ENDS
**********
*SRC=CD4069UB;CD4069UB;CMOS;CD4xxx;Inverter, MOS Level
*SYM=CD4069UB
.SUBCKT CD4069UB 6  1   4   3
*Connections     In Out Vdd Vss
*pinout 14PIN 1 2;3 4;5 6;9 8;11 10;13 12:VCC=14 GND=7
M2 1 6 3 3 CD4069BN
M3 1 6 4 4 CD4069BP
.MODEL CD4069BN NMOS (LEVEL=1 VTO=3.5 KP=2.9M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=20.2 RS=184.1 IS=31.2F PB=.8 MJ=.46
+ CBD=47.6P CBS=57.2P CGSO=70.2N CGDO=58.5N CGBO=96.3N)
.MODEL CD4069BP PMOS (LEVEL=1 VTO=-3.0 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2 RS=145.2 IS=31.2F PB=.8 MJ=.46
+ CBD=47.6P CBS=57.2P CGSO=70.2N CGDO=58.5N CGBO=96.3N)
.ENDS
**********
*SRC=CD4011B;CD4011B;CMOS;CD4xxx;2-In Nand, MOS Level
*SYM=CD4011B
.SUBCKT CD4011B 3   5   8   9   2
*Connections    In1 In2 Out Vdd vss
*pinout 14PIN 1 2 3;5 6 4;8 9 10;12 13 11:VCC=14 GND=7
M2 1 3 2 2 CD4011BN
M15 6 5 9 9 CD4011BP
M5 6 5 2 2 CD4011BN
M16 8 11 9 9 CD4011BP
M7 8 11 2 2 CD4011BN
M17 11 6 4 9 CD4011BP
M9 11 6 2 2 CD4011BN
M14 1 3 9 9 CD4011BP
M12 11 1 2 2 CD4011BN
M13 4 1 9 9 CD4011BP
.ENDS
.MODEL CD4011BN NMOS (LEVEL=1 VTO=3.5 KP=2.9M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=20.2 RS=184.1 IS=31.2F PB=.8 MJ=.46
+ CBD=21.2P CBS=25.4P CGSO=31.2N CGDO=26N CGBO=42.8N)
.MODEL CD4011BP PMOS (LEVEL=1 VTO=-3.0 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2 RS=145.2 IS=31.2F PB=.8 MJ=.46
+ CBD=15.9P CBS=19P CGSO=23.4N CGDO=19.5N CGBO=32.1N)
**********
*SRC=CD4001UB;CD4001UB;CMOS;CD4xxx;2-In Nor, MOS Level
*SYM=CD4001UB
.SUBCKT CD4001UB 6   5   1   3   4
*Connections     In1 In2 Out Vdd Vss
*pinout 14PIN 1 2 3;5 6 4;8 9 10;12 13 11:VCC=14 GND=7
M1 1 5 4 4 CD4001UN
M5 1 5 2 3 CD4001UP
M6 2 6 3 3 CD4001UP
M4 1 6 4 4 CD4001UN
.MODEL CD4001UN NMOS (LEVEL=1 VTO=3.5 KP=2.9M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=20.2 RS=184.1 IS=31.2F PB=.8 MJ=.46
+ CBD=21.2P CBS=25.4P CGSO=31.2N CGDO=26N CGBO=42.8N)
.MODEL CD4001UP PMOS (LEVEL=1 VTO=-3.0 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2 RS=145.2 IS=31.2F PB=.8 MJ=.46
+ CBD=15.9P CBS=19P CGSO=23.4N CGDO=19.5N CGBO=32.1N)
.ENDS
**********
*SRC=CD4025B;CD4025B;CMOS;CD4xxx;3-In Nor, MOS Level
*SYM=CD4025B
.SUBCKT CD4025B 5   14  13  3   10  9
*Connections    In1 In2 In3 Out Vdd Vss
*pinout 14PIN 1 2 8 9;3 4 5 6;13 12 11 10:VCC=14 GND=7
M16 16 5 10 10 CD4025BP
M17 7 16 10 10 CD4025BP
M18 7 11 10 10 CD4025BP
M19 7 15 10 10 CD4025BP
M20 3 7 10 10 CD4025BP
M21 11 14 10 10 CD4025BP
M22 15 13 10 10 CD4025BP
M10 11 14 9 9 CD4025BN
M11 15 13 9 9 CD4025BN
M12 3 7 9 9 CD4025BN
M13 7 16 4 9 CD4025BN
M14 4 11 6 9 CD4025BN
M15 6 15 9 9 CD4025BN
M1 16 5 9 9 CD4025BN
.MODEL CD4025BN NMOS (LEVEL=1 VTO=3.5 KP=2.9M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=20.2 RS=184.1 IS=31.2F PB=.8 MJ=.46
+ CBD=21.2P CBS=25.4P CGSO=31.2N CGDO=26N CGBO=42.8N)
.MODEL CD4025BP PMOS (LEVEL=1 VTO=-3.0 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2 RS=145.2 IS=31.2F PB=.8 MJ=.46
+ CBD=15.9P CBS=19P CGSO=23.4N CGDO=19.5N CGBO=32.1N)
.ENDS
**********
*SRC=CD4001B;CD4001B;CMOS;CD4xxx;2-In Nor, MOS Level
*SYM=CD4001B
.SUBCKT CD4001B 6   4   9   5   10  
*Connections    In1 In2 Out Vdd Vss
*CMOS Nor Gate
*pinout 14PIN 1 2 3;5 6 4;8 9 10;12 13 11:VCC=14 GND=7
M11 1 6 5 5 CD4001BP
M3 2 4 10 10 CD4001BN
M12 2 4 5 5 CD4001BP
M5 3 1 8 8 CD4001BN
M13 3 2 5 5 CD4001BP
M7 9 3 10 10 CD4001BN
M14 9 3 5 5 CD4001BP
M15 3 1 5 5 CD4001BP
M10 8 2 10 10 CD4001BN
M1 1 6 10 10 CD4001BN
.MODEL CD4001BN NMOS (LEVEL=1 VTO=3.5 KP=2.9M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=20.2 RS=184.1 IS=31.2F PB=.8 MJ=.46
+ CBD=21.2P CBS=25.4P CGSO=31.2N CGDO=26N CGBO=42.8N)
.MODEL CD4001BP PMOS (LEVEL=1 VTO=-3.0 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2 RS=145.2 IS=31.2F PB=.8 MJ=.46
+ CBD=21.2P CBS=25.4P CGSO=31.2N CGDO=26N CGBO=42.8N)
.ENDS
**********
*SRC=CD4093B;CD4093B;CMOS;CD4xxx;Nand Schmitt Trig, MOS
*SYM=CD4093B
.SUBCKT CD4093B 3   2   13  9   4
*Connections    In1 In2 Out Vdd Vss
*pinout 14PIN 1 2 3;5 6 4;8 9 10;12 13 11:VCC=14 GND=7
X1 15 1 9 4 INV4093
X2 1 17 9 4 INV4093 
X3 1 13 9 4 INV4093 
M12 7 11 4 4 CD4093N
M13 15 12 7 8 CD4093N
M16 5 11 17 4 CD4093N
M17 15 12 5 8 CD4093N
M18 15 11 9 9 CD4093P
M19 15 12 9 9 CD4093P
M20 15 12 17 9 CD4093P
M21 15 11 17 9 CD4093P
R1 3 12 .1
R2 2 11 .1
.MODEL CD4093N NMOS (LEVEL=1 VTO=3.5 KP=2.9M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=20.2 RS=184.1 IS=31.2F PB=.8 MJ=.46
+ CBD=15.9P CBS=19P CGSO=23.4N CGDO=19.5N CGBO=32.1N)
.MODEL CD4093P PMOS (LEVEL=1 VTO=-3.0 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2 RS=145.2 IS=31.2F PB=.8 MJ=.46
+ CBD=15.9P CBS=19P CGSO=23.4N CGDO=19.5N CGBO=32.1N)
.SUBCKT INV4093 6  1   4   3
*Connections    In Out Vdd Vss
M2 1 6 3 3 CD469BN
M3 1 6 4 4 CD469BP
.MODEL CD469BN NMOS (LEVEL=1 VTO=3.5 KP=2.9M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=20.2 RS=184.1 IS=31.2F PB=.8 MJ=.46
+ CBD=15.9P CBS=19P CGSO=23.4N CGDO=19.5N CGBO=32.1N)
.MODEL CD469BP PMOS (LEVEL=1 VTO=-3.0 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2 RS=145.2 IS=31.2F PB=.8 MJ=.46
+ CBD=15.9P CBS=19P CGSO=23.4N CGDO=19.5N CGBO=32.1N)
.ENDS INV4093
.ENDS
**********

